US07074798B2
4-[7-(2-Butynyl)-1-(2,2-dimethylpropionyloxymethyl)-2,6-dioxo-2,3,6,7-tetrahydro-1H-purin-8-yl]piperazine-1-carboxylic acid tert-butyl ester (50 mg) and potassium carbonate (15 mg) were dissolved in N,N-dimethylformamide (1.2 ml), and 2-bromoethylethyl ether (12 μl) was added to the solution. The mixture was stirred at 60° C. for 2 hours, diluted with ethyl acetate, washed with water, and dried over anhydrous magnesium sulfate. After the organic layer was concentrated by distillation, the residue was purified by silica gel column chromatography to give 4-[7-(2-butynyl)-1-(2,2-dimethylpropionyloxymethyl)-3-(2-ethoxyethyl)-2,6-dioxo-2,3,6,7-tetrahydro-1H-purin-8-yl]piperazine-1-carboxylic acid tert-butyl ester from the elution fraction of hexane-ethyl acetate (2:1). The obtained 4-[7-(2-butynyl)-1-(2,2-dimethylpropionyloxymethyl)-3-(2-ethoxyethyl)-2,6-dioxo-2,3,6,7-tetrahydro-1H-purin-8-yl]piperazine-1-carboxylic acid tert-butyl ester was dissolved in a solvent mixture of tetrahydrofuran (1.0 ml) and methanol (0.5 ml), sodium hydride (5 mg) was added to the solution, and the mixture was stirred at room temperature for 1 hour. After the reaction mixture was neutralized with 2N hydrochloric acid and extracted with ethyl acetate, the organic layer was dried over anhydrous magnesium sulfate. The solvent was removed by distillation to give 4-[7-(2-butynyl)-3-(2-ethoxyethyl)-2,6-dioxo-2,3,6,7-tetrahydro-1H-purin-8-yl]piperazine-1-carboxylic acid tert-butyl ester. A quarter of the obtained 4-[7-(2-butynyl)-3-(2-ethoxyethyl)-2,6-dioxo-2,3,6,7-tetrahydro-1H-purin-8-yl]piperazine-1-carboxylic acid tert-butyl ester was dissolved in trifluoroacetic acid (0.5 ml), and the solution was stirred at room temperature for 30 minutes. After the solvent was removed by distillation, a half of the residue was purified by HPLC with a reversed phase column using water-acetonitrile-trifluoroacetic acid system as elution solvent to give 3.2 mg of the title compound.

reactant | 4-[7-(2-butynyl)-1-(2,2-dimethylpropionyloxymethyl)-3-(2-ethoxyethyl)-2,6-dioxo-2,3,6,7-tetrahydro-1H-purin-8-yl]piperazine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CCN(CC1)C1=NC=2N(C(N(C(C2N1CC#CC)=O)COC(C(C)(C)C)=O)=O)CCOCC | C28H42N6O7
reactant | sodium hydride | 5 mg | [H-].[Na+]
reactant | hydrochloric acid | 2N | Cl | ClH
solvent | tetrahydrofuran | 1.0 ml | O1CCCC1 | C4H8O
solvent | methanol | 0.5 ml | CO | CH4O
product | 4-[7-(2-butynyl)-3-(2-ethoxyethyl)-2,6-dioxo-2,3,6,7-tetrahydro-1H-purin-8-yl]piperazine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CCN(CC1)C1=NC=2N(C(NC(C2N1CC#CC)=O)=O)CCOCC | C22H32N6O5
